US05990101
A 20 ml portion of a 2N aqueous sodium hydroxide solution was added to 100 ml of an ethanol solution containing 5.727 g of ethyl 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylate, and the mixture was then stirred at room temperature for 45 minutes. After adjustment to pH 5 with 2N hydrochloric acid, the solvent was evaporated under reduced pressure. Further, the solution was dissolved in 300 ml of ethanol under heating, and after the removal of a salt by filtration, the solvent was evaporated under reduced pressure to obtain 4.228 g of 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylic acid as a milky white solid.

reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | ethyl 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylate | 5.727 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)OCC | C12H18N2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylic acid | 4.228 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)O | C10H14N2O4S
